US07067517B2
4-(4-Methoxy-benzyl)-piperazine-1-carboxylic acid 4-(3,3-dimethyl-butylcarbamoyl)-phenyl ester
The title product was prepared from 1-(4-methoxy-benzyl)-piperazine (0.35 mmol) was dissolved in dichloromethane (5 ml). 4-(3,3-Dimethyl-butylcarbamoyl)-phenyl chloroformate (0.35 mmol) was added at room temperature. The reaction mixture was stirred for 16 h and evaporated to dryness and subjected to preparative HPLC (metod C). (54%, colourless semi-crystaline oil). HPLC-MS m/z=454.3 (M+1), Rt: 2.78 min.

reactant | 1-(4-methoxy-benzyl)-piperazine | 0.35 mmol | COC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2O
reactant | 4-(3,3-Dimethyl-butylcarbamoyl)-phenyl chloroformate | 0.35 mmol | ClC(=O)OC1=CC=C(C=C1)C(NCCC(C)(C)C)=O | C14H18ClNO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(4-Methoxy-benzyl)-piperazine-1-carboxylic acid 4-(3,3-dimethyl-butylcarbamoyl)-phenyl ester | CC(CCNC(=O)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)OC)(C)C | C26H35N3O4
